US04241060
1.27 g of 2-nitro-α-(piperidino)methyl-1-imidazole-ethanol were dissolved in 25 ml of warm ethanol and treated with a small excess of anhydrous ethereal hydrogen chloride. The mixture was then allowed to cool and crystallize for several hours. There were obtained 1.4 g of 2-nitro-α-(piperidino)methyl-1-imidazole-ethanol hydrochloride in the form of a very pale cream colored microcrystalline solid identical with the product prepared as described in Example 3(b).

reactant | 2-nitro-α-(piperidino)methyl-1-imidazole-ethanol | 1.27 g | [N+](=O)([O-])C=1N(C=CN1)CC(O)CN1CCCCC1 | C11H18N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-nitro-α-(piperidino)methyl-1-imidazole-ethanol hydrochloride | 1.4 g | Cl.[N+](=O)([O-])C=1N(C=CN1)CC(O)CN1CCCCC1 | InChI=1S/C11H18N4O3.ClH/c16-10(8-13-5-2-1-3-6-13)9-14-7-4-12-11(14)15(17)18;/h4,7,10,16H,1-3,5-6,8-9H2;1H
